US09238640B2
Preparation of 5,7-Dimethoxy-2-(4-(3-(methylamino)pyrrolidin-1-yl)phenyl)quinazolin-4(3H)-one
A mixture of N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)pyrrolidin-3-yl)-N-methylacetamide (0.500 g, 1.18 mmol) and 2 N HCl (80 mL) was heated at 100° C. for 4 hours, cooled, basified to pH 9, extracted with CH2Cl2 (2×200 mL), dried (MgSO4), filtered, and concentrated. The residue was purified by flash chromatography on silica gel, eluting with 1:1 CH2Cl2/92:7:1 CHCl3/MeOH/concentrated NH4OH to 100% 92:7:1 CHCl3/MeOH/concentrated NH4OH to 6:3:1 CHCl3/MeOH/concentrated NH4OH, to afford the title compound (0.210 g, 47%) as a pale yellow solid. 1H NMR (300 MHz, DMSO-d6): δ 11.65 (br s, 1H), 8.08 (d, J=8.7 Hz, 2H), 6.65 (s 1H), 6.55 (d, J=7.8 Hz, 2H), 6.43 (s, 1H), 3.88 (s, 3H), 3.83 (s, 3H), 3.46-3.49 (m, 1H), 3.38-3.42 (m, 1H), 3.26-3.28 (m, 2H), 3.07-3.10 (m, 1H), 2.31 (s, 3H), 2.08-2.11 (m, 1H), 1.81-1.84 (m, 1H). ESI MS m/z 381 [M+H]+.

reactant | N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)pyrrolidin-3-yl)-N-methylacetamide | 1.18 mmol, 0.500 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CC(CC1)N(C(C)=O)C)=O | C23H26N4O4
solvent | HCl | 2 N, 80 mL | Cl | ClH
product | 5,7-Dimethoxy-2-(4-(3-(methylamino)pyrrolidin-1-yl)phenyl)quinazolin-4(3H)-one | 0.210 g, 47% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CC(CC1)NC)=O | C21H24N4O3
